US09340538B2
Step C: Ethyl 4-(2-bromo-4-fluorophenyl)-6-methyl-2-(5-(trifluoromethyl)thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
5-(trifluoromethyl)thiazole-2-carboximidamide hydrochloride (0.93 g, 4 mmol) was reacted with 2-bromo-4-fluorobenzaldehyde (0.81 g, 4 mmol) and ethyl 3-oxobutanoate (0.55 g, 4.2 mmol) according to the procedure as described in Example 1, Step A to give the title compound as a yellow solid (0.45 g, 23%). The compound was characterized by the following spectroscopic data:

reactant | 5-(trifluoromethyl)thiazole-2-carboximidamide hydrochloride | 4 mmol, 0.93 g | Cl.FC(C1=CN=C(S1)C(N)=N)(F)F
reactant | 2-bromo-4-fluorobenzaldehyde | 4 mmol, 0.81 g | BrC1=C(C=O)C=CC(=C1)F | C7H4BrFO
reactant | ethyl 3-oxobutanoate | 4.2 mmol, 0.55 g | O=C(CC(=O)OCC)C | C6H10O3
product | Ethyl 4-(2-bromo-4-fluorophenyl)-6-methyl-2-(5-(trifluoromethyl)thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.45 g, 23% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C=1SC(=CN1)C(F)(F)F | C18H14BrF4N3O2S
